US08222416B2
To a solution of {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester (584 mg, 1.21 mmol) in dichloromethane (20 mL) was bubbled in dry hydrogen chloride gas for 30 min. The resulting mixture was stirred for 3 h at room temperature. The solvent was removed to afford 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-ylamine hydrochloride salt (508 mg, 100%) which was used in the next step without purification: LC/MS m/e calcd for C21H25N3O2S [M+H]+ 384.52, observed 384.2.

reactant | {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester | 1.21 mmol, 584 mg | C(C)(C)(C)OC(NC=1C=C2C(=NC1)NC(=C2)C(CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C)=O | C26H33N3O4S
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | hydrogen chloride | Cl | ClH
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-ylamine hydrochloride salt | 508 mg, 100% | Cl.C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)N)N1 | InChI=1S/C21H25N3O2S.ClH/c1-27(25,26)18-8-6-15(7-9-18)19(10-14-4-2-3-5-14)20-12-16-11-17(22)13-23-21(16)24-20;/h6-9,11-14,19H,2-5,10,22H2,1H3,(H,23,24);1H
